US07507729B2
b) (3-Methyl-pyrazol-1-yl)-acetic acid hydrazide
As described for example 112a, (3-methyl-pyrazol-1-yl)-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (2 equivalents) and the resulting mixture was heated under reflux for 4 h. The mixture was then cooled to rt and the precipitated product was filtered off and crystallized from ethanol. The title compound (>95% purity) was obtained as a white solid (yield: 68%). 1H-NMR (300 MHz, DMSO): δ=2.12 (s, 3H), 4.29 (s, 2H), 4.60 (s, 2H), 6.00 (d, J=2 Hz, 1H), 7.55 (d, J=2 Hz, 1H), 9.26 (s, 1H).

reactant | (3-methyl-pyrazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=C(C=C1)C)=O | C8H12N2O2
reactant | hydrazine hydrate | 2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (3-Methyl-pyrazol-1-yl)-acetic acid hydrazide | >95% | CC1=NN(C=C1)CC(=O)NN | C6H10N4O
